US06350749B1
To a mixture of 5-(2-bromophenyl)cyclohexane-1,3-dione (1.5 g), 1-amino-2-butyne hydrochloride (0.59 g) and tetrahydrofuran (30 ml) was added triethylamine (0.57 g). The mixture was stirred at room temperature for 1 hour, refluxed for 13 hours and cooled, and insoluble materials were filtered off. Under reduced pressure, the solvent was evaporated, and to the residue was added diphenylether. The mixture was stirred at 250° C. for 12 hours and cooled, and to the mixture was added diethylether. The mixture was extracted with 1N hydrochloric acid, and the aqueous layer was washed with diethylether, neutralized with 1N sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give crystals of 7-(2-bromophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.52 g).

reactant | 5-(2-bromophenyl)cyclohexane-1,3-dione | 1.5 g | BrC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11BrO2
reactant | 1-amino-2-butyne hydrochloride | 0.59 g | Cl.NCC#CC
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.57 g | C(C)N(CC)CC | C6H15N
product | 7-(2-bromophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.52 g | BrC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C16H14BrNO
